US05719152
7) (S)-9-Bromo-5-[p-tert-butoxycarbonylaminomethyl-o-(3-methoxycarbonylpropyl) phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 9-7) was performed with 4-tert-butoxycarbonylaminomethyl-2-(3-methoxycarbonylpropyl)aniline (130 mg, 0.4 mmol) and (S)-9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (136 mg, 0.4 mmol) to give 118 mg of the title compound (62%).

reactant | 4-tert-butoxycarbonylaminomethyl-2-(3-methoxycarbonylpropyl)aniline | 0.4 mmol, 130 mg | C(C)(C)(C)OC(=O)NCC1=CC(=C(N)C=C1)CCCC(=O)OC | C17H26N2O4
reactant | (S)-9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.4 mmol, 136 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](CC2)CC(=O)O | C13H11BrN2O4
product | (S)-9-Bromo-5-[p-tert-butoxycarbonylaminomethyl-o-(3-methoxycarbonylpropyl) phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 118 mg, 62% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](CC2)CC(NC2=C(C=C(C=C2)CNC(=O)OC(C)(C)C)CCCC(=O)OC)=O | C30H35BrN4O7
